US05939439
3-Chloro-N-(2-{5-[5-(5-chloro-2-oxo-2H-[1,2']bipyridinyl-5'-ylmethyl)-imidazol-1-ylmethyl]-2-cyano-phenoxy}-ethyl)-benzamide
2-(2-Amino-ethoxy)-4-[5-(5-chloro-2-oxo-2H-[1,2']bipyridinyl-5'-ylmethyl)-imidazol-1-ylmethyl]-benzonitrile (L-824,459, 75 mg, 0.16 mmol) was dissolved in DMF (800 μl) and treated with 3-chlorobenzoylchloride (20 μl, 0.18 mmol). The reaction mixture was stirred at room temp. for 2 hours. The solvent was removed in vacuo and the crude product purified by flash chromatography [4% MeOH(NH4OH 5%)/CH2Cl2 ] to yield the final product.

reactant | 2-(2-Amino-ethoxy)-4-[5-(5-chloro-2-oxo-2H-[1,2']bipyridinyl-5'-ylmethyl)-imidazol-1-ylmethyl]-benzonitrile | 0.16 mmol, 75 mg | NCCOC1=C(C#N)C=CC(=C1)CN1C=NC=C1CC=1C=CC(=NC1)N1C(C=CC(=C1)Cl)=O | C24H21ClN6O2
reactant | 3-chlorobenzoylchloride | 0.18 mmol, 20 μl | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
solvent | DMF | 800 μl | CN(C)C=O | C3H7NO
product | 3-Chloro-N-(2-{5-[5-(5-chloro-2-oxo-2H-[1,2']bipyridinyl-5'-ylmethyl)-imidazol-1-ylmethyl]-2-cyano-phenoxy}-ethyl)-benzamide | ClC=1C=C(C(=O)NCCOC2=C(C=CC(=C2)CN2C=NC=C2CC=2C=CC(=NC2)N2C(C=CC(=C2)Cl)=O)C#N)C=CC1 | C31H24Cl2N6O3
